US05248682
4,6-Bis(1,1-dimethylethyl)-5-[(2 methoxyethoxy)methoxy]-2-methylpyrimidine
4,6-Bis(1,1-dimethylethyl) 5 hydroxy-2-methyl pyrimidine (9.8 g, 44.1 mmoles) is dissolved in 100 mL of tetrahydrofuran and added dropwise to a suspension of sodium hydride (1.2 g, 48.5 mmoles) in THF (50 mL) at 0° C. The reaction mixture is warmed to room temperature over 15 minutes. 2-Methoxyethoxymethyl chloride (7.1 g, 57.3 mmoles) is added to the reaction mixture at room temperature. After being stirred at room temperature for 4 hours, the reaction is quenched by the addition of saturated ammonium chloride and the tetrahydrofuran is evaporated. The organics are extracted into 300 mL of ether. The ether is washed with 100 mL of brine and dried over magnesium sulfate. Evaporation of the solvent gives the crude product which is purified by flash chromatography (silica, 10% ether/hexane). Yield of 4,6 bis(1,1-dimethylethyl)-5-[(2-methoxyethoxy)methoxy]-2-methylpyrimidine=11.3 g (82%) as a clear oil.

reactant | 4,6-Bis(1,1-dimethylethyl) 5 hydroxy-2-methyl pyrimidine | 44.1 mmoles, 9.8 g | CC(C)(C)C1=NC(=NC(=C1O)C(C)(C)C)C | C13H22N2O
reactant | sodium hydride | 48.5 mmoles, 1.2 g | [H-].[Na+]
reactant | 2-Methoxyethoxymethyl chloride | 57.3 mmoles, 7.1 g | COCCOCCl | C4H9ClO2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4,6-Bis(1,1-dimethylethyl)-5-[(2 methoxyethoxy)methoxy]-2-methylpyrimidine | CC(C)(C)C1=NC(=NC(=C1OCOCCOC)C(C)(C)C)C | C17H30N2O3
